US06908913B2
Manganese dioxide (1.0 g) was added to a solution of 1.02 g of 7-[(pyridin-3-yl)hydroxymethyl]imidazo[5,1-b]thiazole in 40 ml of dichloromethane, and the mixture was stirred at room temperature for 5 hr. The reaction solution was filtered through Celite, followed by washing with dichloromethane. The filtrate was concentrated under the reduced pressure to give 1.10 g of 7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazole.

reactant | 7-[(pyridin-3-yl)hydroxymethyl]imidazo[5,1-b]thiazole | 1.02 g | N1=CC(=CC=C1)C(C=1N=CN2C1SC=C2)O | C11H9N3OS
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
catalyst | Manganese dioxide | 1.0 g | [O-2].[O-2].[Mn+4]
product | 7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazole | 1.10 g | N1=CC(=CC=C1)C(=O)C=1N=CN2C1SC=C2 | C11H7N3OS
